US04588722
A mixture of 1.5 parts of N-methyl-N'-nitro-N-nitrosoquanidine, 3.7 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine and 80 parts of ethanol 50% was stirred overnight at room temperature. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried overnight at 110° C., yielding 1.5 parts (33%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-nitroguanidine; mp. 146.7° C. (compound 23).

reactant | N-methyl-N'-nitro-N-nitrosoquanidine | CN(/C(=N/[N+](=O)[O-])/N)N=O | C2H5N5O3
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
solvent | ethanol | C(C)O | C2H6O
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-nitroguanidine | 33% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=N)N[N+](=O)[O-] | C22H27FN8O2
